US07381730B2
5,7-dimethoxy-3-(4-methoxyphenyl)-4(3H)-quinazolinethione
The mixture of 5,7-dimethoxy-3-(4-methoxyphenyl)-quinazoline-4-one (240 mg, 0.76 mmol), as prepared in Example 18 or 19, and Lawesson's reagent (310 mg, 0.76 mmol) in toluene (4 mL) was refluxed overnight. The mixture was evaporated to dryness. EtOAc was added and the mixture was washed with water, brine and dried over MgSO4. Evaporation gave a crude solid. Purification was performed by flash chromatography on silica gel, loaded with dichloromethane and eluted with 45% ethyl acetate in hexane. The pure fraction was combined and evaporated to give a yellow foam (180 mg, 72%).

reactant | 5,7-dimethoxy-3-(4-methoxyphenyl)-quinazoline-4-one | 0.76 mmol, 240 mg | COC1=C2C(N(C=NC2=CC(=C1)OC)C1=CC=C(C=C1)OC)=O | C17H16N2O4
reactant | Lawesson's reagent | 0.76 mmol, 310 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 5,7-dimethoxy-3-(4-methoxyphenyl)-4(3H)-quinazolinethione | 180 mg, 72% | COC1=C2C(N(C=NC2=CC(=C1)OC)C1=CC=C(C=C1)OC)=S | C17H16N2O3S
